US07301027B2
A 0.2 M solution of 5-(2-bromophenyl)-1-isobutyl-1H-imidazole-4-carboxylic acid ethyl ester (1.77 g; 5.04 mM) in 1/1 v/v methanol/water is added with NaOH (605 mg; 15.12 mM). The mixture is kept at room temperature for about 15 hours, then acidified with KHSO4, extracted with ethyl acetate, dried over Na2SO4, filtered and evaporated under reduced pressure, thereby obtaining 1.42 g of 5-(2-bromophenyl)-1-isobutyl-1H-imidazole-4-carboxylic acid, as a white-pale yellow solid which is used in the subsequent reaction without further purification. (Yield: 87%).

reactant | 5-(2-bromophenyl)-1-isobutyl-1H-imidazole-4-carboxylic acid ethyl ester | 5.04 mM, 1.77 g | C(C)OC(=O)C=1N=CN(C1C1=C(C=CC=C1)Br)CC(C)C | C16H19BrN2O2
reactant | NaOH | 15.12 mM, 605 mg | [OH-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | methanol water | CO.O
product | 5-(2-bromophenyl)-1-isobutyl-1H-imidazole-4-carboxylic acid | 1.42 g, Yield: 87% | BrC1=C(C=CC=C1)C1=C(N=CN1CC(C)C)C(=O)O | C14H15BrN2O2
